US08614209B2
[5-(1H-Pyrazol-4-yl)-thiophen-3-yl]-(2-pyridin-2-yl-pyrrolidin-1-yl)-methanone (EE-45)
5-(1H-Pyrazol-4-yl)-thiophene-3-carboxylic acid (0.075 g, 0.39 mmol) was suspended in thionyl chloride (1 mL) and the mixture heated at 60° C. for 1 hour. The mixture was cooled and concentrated by evaporation, azeotroping with toluene (×3). 2-Pyrrolidin-2-yl-pyridine (0.173 g, 1.17 mmol) and acetonitrile (1.5 mL) were added and the reaction mixture stirred for 30 minutes and then the solvent was removed by evaporation. The crude material was purified by HPLC, eluting with 5%-95% acetonitrile in water (0.1% formic acid) over 20 minutes. The fractions containing the desired product were evaporated, azeotroping with methanol (×3), to give the title compound as a foam (0.025 g). LCMS m/z 325.18 [M+H]+ R.T.=5.07 min (Analytical Method 2).

reactant | 5-(1H-Pyrazol-4-yl)-thiophene-3-carboxylic acid | 0.39 mmol, 0.075 g | N1N=CC(=C1)C1=CC(=CS1)C(=O)O | C8H6N2O2S
reactant | 2-Pyrrolidin-2-yl-pyridine | 1.17 mmol, 0.173 g | N1C(CCC1)C1=NC=CC=C1 | C9H12N2
reactant | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
product | [5-(1H-Pyrazol-4-yl)-thiophen-3-yl]-(2-pyridin-2-yl-pyrrolidin-1-yl)-methanone | 0.025 g | N1N=CC(=C1)C1=CC(=CS1)C(=O)N1C(CCC1)C1=NC=CC=C1 | C17H16N4OS
